US07932272B2
N-(4-Benzyloxy-benzyl)-6-(ethoxymethyl-amino)-nicotinamide
To a solution of the resulting 6-amino-N-(4-benzyloxy-benzyl)-nicotinamide (200 mg, 0.556 mmol) in ethanol (10 mL) were added 5,5-dimethylimidazophospho-2,4-dione (85 mg, 0.66 mmol) and 37% formaldehyde aqueous solution (1 mL), and the solution was stirred for 1 hour under reflux. Water and ethyl acetate were added to the reaction solution, which was then partitioned, and the organic layer was washed twice. NH silica gel was added to the organic layer, the solvent was evaporated in vacuo for adsorption, purification was carried out by NH silica gel column chromatography (ethyl acetate), and the title compound (95 mg, 0.243 mmol, 40%) was obtained as a white solid.

reactant | 6-amino-N-(4-benzyloxy-benzyl)-nicotinamide | 0.556 mmol, 200 mg | NC1=NC=C(C(=O)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C20H19N3O2
reactant | formaldehyde | 1 mL | C=O | CH2O
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(4-Benzyloxy-benzyl)-6-(ethoxymethyl-amino)-nicotinamide | 0.243 mmol, 95 mg, 40% | C(C1=CC=CC=C1)OC1=CC=C(CNC(C2=CN=C(C=C2)NCOCC)=O)C=C1 | C23H25N3O3
